US07595398B2
Rac-cis -2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-cyclopentanecarboxylic acid methyl ester
Rac-cis-cyclopentane-1,2-dicarboxylic acid monomethyl ester (172 mg) was dissolved in DMF (5 mL) and treated with HATU (1.1 eq. 470 mg) and DIEA (3 eq, 500 μL) and stirred for 15 minutes. Then 4-(2-amino-thiazol-4-yl)-N-cyclopropyl-benzamide (1 eq, 260 mg) was added and the mixture stirred at ambient temperature overnight. The reaction was cooled, filtered and the solvents removed. The resulting mixture was redissolved in 5 ml of 90% DMF, 10% water with 0.1% TFA and purified by reverse phase HPLC to give the product. MS: 414.5.

reactant | Rac-cis-cyclopentane-1,2-dicarboxylic acid monomethyl ester | 172 mg | COC(=O)[C@H]1[C@H](CCC1)C(=O)O | C8H12O4
reactant | HATU | 470 mg, 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 500 μL, 3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(2-amino-thiazol-4-yl)-N-cyclopropyl-benzamide | 260 mg, 1 eq | NC=1SC=C(N1)C1=CC=C(C(=O)NC2CC2)C=C1 | C13H13N3OS
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Rac-cis -2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-cyclopentanecarboxylic acid methyl ester | COC(=O)[C@H]1[C@H](CCC1)C(NC=1SC=C(N1)C1=CC=C(C=C1)C(NC1CC1)=O)=O | C21H23N3O4S
